US06509328B1
(4-Iodo-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester
Prepared the isocyanate from 4-iodo-2-nitroaniline (12.0 g, 45.5 mmol; prepared from 2-nitroaniline according to Wilson, J. Gerald; Hunt, Frederick C. Aust. J. Chem. 1983, 36, 2317-25; CAS-No. [20691-72-9]) with diphosgene (4.1 mL, 34.1 mmol) in EtOAc (250 mL), followed by treatment with tert.-BuOH (12 mL) in CH2Cl2 (60 mL) according to the general procedure A (method a). Obtained as a yellow solid (8.23 g, 82%).

reactant | isocyanate | [N-]=C=O
reactant | 4-iodo-2-nitroaniline | 45.5 mmol, 12.0 g | IC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | diphosgene | 34.1 mmol, 4.1 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | BuOH | 12 mL | C(CCC)O | C4H10O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | (4-Iodo-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester | 8.23 g, 82% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)I)[N+](=O)[O-])=O | C11H13IN2O4
